US05153316
The product of Example 53, 2-(4-chloro-2-fluoro-5-methoxyphenyl)-2,3,5,6,7,8-hexahydro-3-oxoimidazo[1,5-a]pyridine-1-carbonitrile, (4 g, 0.012 mol) was dissolved in benzene and treated with 8.3 g (0.062 mol) of AlCl3 using conditions described in Example 32 to furnish 3.1 g of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,3,5,6,7,8-hexahydro-3-oxoimidazo[1,5-a]pyridine-1-carbonitrile (m.p. 204°-6° C.).

reactant | 2-(4-chloro-2-fluoro-5-methoxyphenyl)-2,3,5,6,7,8-hexahydro-3-oxoimidazo[1,5-a]pyridine-1-carbonitrile | 0.012 mol, 4 g | ClC1=CC(=C(C=C1OC)N1C(N2C(CCCC2)=C1C#N)=O)F | C15H13ClFN3O2
reactant | AlCl3 | 0.062 mol, 8.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,3,5,6,7,8-hexahydro-3-oxoimidazo[1,5-a]pyridine-1-carbonitrile | 3.1 g | ClC1=CC(=C(C=C1O)N1C(N2C(CCCC2)=C1C#N)=O)F | C14H11ClFN3O2
